US06514407B2
10-undecene-1-ol was reacted with 4-methylbenzene sulfonyl chloride to produce 1-methyl 4-undecenyloxy sulfonyl benzene;

reactant | 10-undecene-1-ol | C(CCCCCCCCC=C)O | C11H22O
reactant | 4-methylbenzene sulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
product | 1-methyl 4-undecenyloxy sulfonyl benzene | CC1=CC=C(C=C1)S(=O)(=O)OC=CCCCCCCCCC | C18H28O3S
